US05455252
2-bromo-4-(4-pyridylmethyl)aniline and 3-chloro-4-fluorobenzene boronic acid were combined to form 2-(3-chloro-4-fluorophenyl)-4-(4-pyridylmethyl)aniline,

reactant | 2-bromo-4-(4-pyridylmethyl)aniline | BrC1=C(N)C=CC(=C1)CC1=CC=NC=C1 | C12H11BrN2
reactant | 3-chloro-4-fluorobenzene boronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 2-(3-chloro-4-fluorophenyl)-4-(4-pyridylmethyl)aniline | ClC=1C=C(C=CC1F)C1=C(N)C=CC(=C1)CC1=CC=NC=C1 | C18H14ClFN2
